US08497368B2
3-Chloro-6-hydrazinylpyridazine (i)
A mixture of 3,6-dichloropyridazine (3 g, 20.14 mmol) and hydrazine monohydride (1 g, 20.14 mmol) was heated in a sealed tube to 80° C. for 5 hours. Solvent was evaporated and the crude was used in the next step without purification (3.56 g, 100%). LCMS (method B): [MH]+=145.1, tR=0.57 min.

reactant | 3,6-dichloropyridazine | 20.14 mmol, 3 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | hydrazine monohydride | 20.14 mmol, 1 g | [H-].NN
product | 3-Chloro-6-hydrazinylpyridazine | ClC=1N=NC(=CC1)NN | C4H5ClN4
